US04705786
To a stirred mixture of 7.10 g of 2-cyanoethyl 1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine-5-carboxylate in 30 ml of ethylene glycohol dimethyl ether was added a solution of 1.92 g of sodium hydroxide in 50 ml of water. The reaction mixture was stirred at room temperature overnight and then diluted by adding 40 ml of water. The mixture was washed with methylene chloride and acidified with dilute hydrochloric acid until the pH of the solution was about 1. The precipitate was collected by filtration, washed with water and dried to give 6.1 g of 1,4-dihydro-2,6-dimetyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine-5-carboxylic acid as pale yellow powder, m.p. 196° C. (decomp.).

reactant | 2-cyanoethyl 1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine-5-carboxylate | 7.10 g | CC=1NC(=C(C(C1C1=NC(=NO1)CCl)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC#N)C | C20H18ClN5O5
reactant | sodium hydroxide | 1.92 g | [OH-].[Na+]
solvent | ethylene | 30 ml | C=C | C2H4
solvent | water | 50 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 1,4-dihydro-2,6-dimetyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine-5-carboxylic acid | 6.1 g | CC=1NC(=C(C(C1C1=NC(=NO1)CCl)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C | C17H15ClN4O5
